US05157047
Preparation of 3-Bromo-5-(p-chlorophenyl)-2,4-bis(trifluoromethyl)pyrrole
N-Bromosuccinimide (0.9 g, 5 mmol) is added to a solution of 2-(p-chlorophenyl)-3,5-bis(trifluoromethyl)pyrrole (0.78 g, 2.5 mmol) and tetrahydrofuran (50 mL). The reaction mixture is stirred at room temperature overnight then concentrated in vacuo to give a solid. The solid is chromatographed using silica gel and 20% ethyl acetate in hexanes as eluant to yield the title compound as a light green solid (0.376 g, mp 71°-75° C., 38%).

reactant | N-Bromosuccinimide | 5 mmol, 0.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(p-chlorophenyl)-3,5-bis(trifluoromethyl)pyrrole | 2.5 mmol, 0.78 g | ClC1=CC=C(C=C1)C=1NC(=CC1C(F)(F)F)C(F)(F)F | C12H6ClF6N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-Bromo-5-(p-chlorophenyl)-2,4-bis(trifluoromethyl)pyrrole | 0.376 g, 38% | BrC1=C(NC(=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(F)(F)F | C12H5BrClF6N
